US09029391B2
methyl [7-bromo-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl][(1,1-dimethylethyl)oxy]acetate
An ice cold mixture of methyl 2-(tert-butoxy)-2-(4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)acetate (187 mg, 0.459 mmol) in N,N-Dimethylformamide (DMF) (2.0 mL) was treated with a solution of bromine (0.071 mL, 1.377 mmol) in dichloromethane (DCM) (2.0 mL). The ice bath was removed and the mixture, which was excluded from light by wrapping the reaction vessel with aluminum foil, was allowed to stir at ambient temperature overnight. The mixture was quenched by adding saturated sodium bicarbonate and then extracted with ethyl acetate. The extracts were washed with water, then brine, dried over sodium sulfate, filtered and concentrated. The residue was purified on silica gel to afford the title compound as a thick colorless oil (123 mg, 55%) that solidified upon standing. 1H NMR (400 MHz, CHLOROFORM-d) δ=8.63 (d, J=2.1 Hz, 1 H), 7.56 (ddd, J=2.2, 6.0, 8.6 Hz, 1 H), 7.31-7.22 (m, 1 H), 7.20-6.88 (m, 3 H), 5.20 (s, 1 H), 3.83-3.74 (m, 3 H), 3.69 (m, 3 H), 2.37 (s, 3 H), 2.31 (s, 3 H), 1.01 (m, 9 H); LC/MS (m/z) ES+=486 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)acetate | 0.459 mmol, 187 mg | C(C)(C)(C)OC(C(=O)OC)C=1N(C(C2=CC=CC=C2C1C1=CC(=C(C=C1)C)C)=O)C | C25H29NO4
reactant | bromine | 1.377 mmol, 0.071 mL | BrBr | Br2
solvent | N,N-Dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | methyl [7-bromo-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl][(1,1-dimethylethyl)oxy]acetate | 123 mg, 55% | BrC1=CC=C2C(=C(N(C(C2=C1)=O)C)C(C(=O)OC)OC(C)(C)C)C1=CC(=C(C=C1)C)C | C25H28BrNO4
